US06812225B2
6-Fluoro-4-methoxy-8-(4-methyl-piperazin-1-yl)-quinoline-2-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
Into a 250 mL round bottom flask equipped with a nitrogen inlet and magnetic stirrer is added 2.01 g (6.3 mmol, 1.0 equiv.) of 6-Fluoro-4-methoxy-8-(4-methyl-piperazin-1-yl)-quinoline-2-carboxylic acid hydrochloride salt. This material is dissolved in 20 mL of DMF and then 1.35 g (7.56 mmol, 1.2 equiv.) of 4-morpholinoaniline is added. To the stirred solution is quickly added simultaneously added 4.05 g (12.6 mmol, 2.0 equiv.) of TBTU (2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluroniumtetrafluoroborate) and 1.7 g (12.6 mmol, 2.0 equiv.) of HOBT (1-hydroxybenzotriazole hydrate). At this point 3.25 g, 4.11 mL (25.2 mmol, 4.0 equiv.) is added via syringe over 5 minutes. The reaction is allowed to stir at room temperature for 18 hrs, then is concentrated on a rotary evaporator under high vacuum in order to remove the DMF. The residue is triturated with methanol and the crude solids are recovered by filtration. The material is then dissolved in methylene chloride and extracted with 10% sodium bicarbonate solution. The organic layer is dried and then concentrated. These residues are then purified by flash chromatography using a gradient of 5-10% methanol in methylene chloride as eluent. The material which is obtained from chromatography, is then crystallized from methanol to give the pure product as 2.83 g (93%) of a yellow solid.

reactant | 6-Fluoro-4-methoxy-8-(4-methyl-piperazin-1-yl)-quinoline-2-carboxylic acid hydrochloride salt | 6.3 mmol, 2.01 g, 1.0 equiv. | Cl.FC=1C=C2C(=CC(=NC2=C(C1)N1CCN(CC1)C)C(=O)O)OC
reactant | 4-morpholinoaniline | 7.56 mmol, 1.35 g, 1.2 equiv. | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | TBTU | 12.6 mmol, 4.05 g, 2.0 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | 12.6 mmol, 1.7 g, 2.0 equiv. | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-Fluoro-4-methoxy-8-(4-methyl-piperazin-1-yl)-quinoline-2-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | 2.83 g, 93% | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)C1=NC2=C(C=C(C=C2C(=C1)OC)F)N1CCN(CC1)C | C26H30FN5O3
